US08114868B2
To a solution of compound 5-bromopyridin-2(1H)-one (348 mg, 2.0 mmol) and K2CO3 (830 mg, 6.0 mmol) in DMF (15 mL) was added ethyl bromoacetate dropwise. The mixture was stirred at room temperature for 2 h, filtered, and the filtrate was concentrated in vacuo. The residue was purified by prep TLC (1:1 PE/EtOAc) to afford ethyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)acetate (300 mg, 57.7%). 1H NMR CDCl3: δ 7.41-7.26 (m, 2H), 6.53-6.5 (d, 1H), 4.59 (s, 2H), 4.28-4.21 (q, 2H), 1.32-1.23 (q, 3H).

reactant | 5-bromopyridin-2(1H)-one | 2.0 mmol, 348 mg | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | K2CO3 | 6.0 mmol, 830 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(5-bromo-2-oxopyridin-1(2H)-yl)acetate | 300 mg, 57.7% | BrC=1C=CC(N(C1)CC(=O)OCC)=O | C9H10BrNO3
